US05998433
c) Synthesis of 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-2-(2-naphthoxy)ethan-1-one hydrochloride
1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-2-(2-naphthoxy)ethan-1-one 0.190 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-2-(2-naphthoxy)ethan-1-one | 0.190 g | CN(C)CC1=CC=2CN(CCC2O1)C(COC1=CC2=CC=CC=C2C=C1)=O | C22H24N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-dimethylaminomethyl-6,7-dihydro-4H-furo[3,2-c]pyridin-5-yl)-2-(2-naphthoxy)ethan-1-one hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(COC1=CC2=CC=CC=C2C=C1)=O | InChI=1S/C22H24N2O3.ClH/c1-23(2)14-20-12-18-13-24(10-9-21(18)27-20)22(25)15-26-19-8-7-16-5-3-4-6-17(16)11-19;/h3-8,11-12H,9-10,13-15H2,1-2H3;1H
